US05693651
(5) 5-[[7-(2-trifluoromethylbenzyloxy)-3-quinolyl]methyl]thiazolidine-2,4-dione
In a mixture of 2N hydrochloric acid (5 mL) and ethanol (3 mL) was dissolved 2-imino-5-[[7-(2-trifluoromethylbenzyloxy)-3-quinolyl]methyl]thiazolidin-4-one (200 mg, 0.47 mmol.). The resulting solution was heated under reflux for 12 hours. After the completion of reaction was confirmed, ethanol was distilled off. To the residue were added ethyl acetate and aqueous sodium hydrogen carbonate so that the aqueous phase was made to pH 7. The organic portion was recovered, washed with water, and dried over sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/8), to give 89 mg of the desired compound as pale brown crystalline powder (yield 44%).

reactant | 2-imino-5-[[7-(2-trifluoromethylbenzyloxy)-3-quinolyl]methyl]thiazolidin-4-one | 0.47 mmol, 200 mg | N=C1SC(C(N1)=O)CC=1C=NC2=CC(=CC=C2C1)OCC1=C(C=CC=C1)C(F)(F)F | C21H16F3N3O2S
reactant | ethanol | 3 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 2N, 5 mL | Cl | ClH
product | 5-[[7-(2-trifluoromethylbenzyloxy)-3-quinolyl]methyl]thiazolidine-2,4-dione | 89 mg, yield 44% | FC(C1=C(COC2=CC=C3C=C(C=NC3=C2)CC2C(NC(S2)=O)=O)C=CC=C1)(F)F | C21H15F3N2O3S
